US08114891B2
1-Azabicyclo[2.2.1]heptan-4-ylmethanamine was prepared by treatment of ethyl 1-azabicyclo[2.2.1]heptane-4-carboxylate with ammonium chloride and trimethylaluminum and reducing the resulting amide with lithium aluminum hydride.

reactant | ethyl 1-azabicyclo[2.2.1]heptane-4-carboxylate | N12CCC(CC1)(C2)C(=O)OCC | C9H15NO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | trimethylaluminum | C[Al](C)C
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-Azabicyclo[2.2.1]heptan-4-ylmethanamine | N12CCC(CC1)(C2)CN | C7H14N2
